US04659708
4-[6-[(6-Methoxy-4-methyl-8-quinolinyl)amino]hexyl]-1-piperazinecarboxylic acid, ethyl ester
A mixture of 6.0 g (0.0195 mole) of N-(6-chlorohexyl)-6-methoxy-4-methyl-8-quinolinamine and 6 ml of 1-piperazinecarboxylic acid, ethyl ester in 2 ml of toluene was heated in an oil bath at 135° for 3 hr, allowed to cool, diluted with ethyl acetate and toluene, washed with water, dried, and concentrated to dryness in vacuo. The residue was chromatographed over 700 g of silica gel first with 2 l of ethyl acetate and then with 2 l each of the following solutions of methanol in ethyl acetate: 2%, 5%, 10%, and 20%. The eluant containing product, Rf (silica--ethyl acetate)=0.16, was concentrated to dryness. The residue was taken up in ether, filtered to remove dark flocculent material, and then treated with 1.2 ml of 85% phosphoric acid in 30 ml of ethanol. The gum which settled was washed with ether and acetone and then dissolved in 2-propanol and water. The pH of the solution was adjusted to 8 with ammonium hydroxide. The solution was then heated on the steambath, diluted with water to the cloud point and chilled to afford 1.7 g (21%) of the title compound, mp. 59°-60°.

reactant | N-(6-chlorohexyl)-6-methoxy-4-methyl-8-quinolinamine | 0.0195 mole, 6.0 g | ClCCCCCCNC=1C=C(C=C2C(=CC=NC12)C)OC | C17H23ClN2O
reactant | 1-piperazinecarboxylic acid, ethyl ester | 6 ml | N1(CCNCC1)C(=O)OCC | C7H14N2O2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[6-[(6-Methoxy-4-methyl-8-quinolinyl)amino]hexyl]-1-piperazinecarboxylic acid, ethyl ester | 1.7 g, 21% | COC=1C=C2C(=CC=NC2=C(C1)NCCCCCCN1CCN(CC1)C(=O)OCC)C | C24H36N4O3
